US06953857B2
4-{3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 1 g 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoic acid in 15 ml CH2Cl2 1.5 ml N-NEM and subsequently 962 mg TOTU were added. After stirring for 1 h at RT 881 mg Boc-(4-amino)piperidine in 5 ml CH2Cl2 were added and the mixture was stirred for additional 2 h followed by addition of 20 ml saturated NaHCO3 solution. The organic layer was separated and dried over Na2SO4 and the solvent evaporated. The residue was recrystallized from ethyl acetate/heptane to afford a white powder.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoic acid | 1 g | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1OC | C16H14Cl2O4
reactant | TOTU | 962 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Boc-(4-amino)piperidine | 881 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-{3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=C(C=C1)OC)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C26H32Cl2N2O5
